US05990346
To a solution of ice-cooled acetonitrile (1 mL) and pyridine (10 mL) was added a hydrogen fluoride-pyridine (0.1 mL). To this solution was added methyl (11R,12S,13E,15S,17R)-9-methoxycarbonyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (67 mg, 0.097 mmol) in pyridine (0.1 mL). The ice bath was removed and the solution was agitated for 15 hours while returning it to room temperature. The reaction solution was poured into a mixture of ethyl acetate and saturated aqueous sodium hydrogencarbonate. The desired product was extracted from this mixed solution with ethyl acetate. The extract was washed with brine, then dried over anhydrous sodium sulfate. The solution was concentrated under reduced pressure, then was purified by silica gel column chromatography (40 to 50% ethyl acetate/hexane) to obtain methyl (11R,12S,13E,15S,17R)-9-methoxycarbonyl-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoate (35 mg, 78%).

reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
reactant | hydrogen fluoride-pyridine | 0.1 mL | N1=CC=CC=C1.F
reactant | methyl (11R,12S,13E,15S,17R)-9-methoxycarbonyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 0.097 mmol, 67 mg | COC(=O)C1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C | C36H68O6SSi2
solvent | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl (11R,12S,13E,15S,17R)-9-methoxycarbonyl-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 35 mg, 78% | COC(=O)C1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O)\C=C\[C@H](C[C@@H](CCCC)C)O | C24H40O6S
